US06593345B1
1-[4-[2-(1-piperidinyl)ethoxy]phenoxy]-2-(3-hydroxyphenyl)-6-hydroxynaphthalene hydrochloride
A solution was prepared of 1.5 g (2.9 mmol) of 1-[4-[2-(1-piperidinyl)ethoxy]phenoxy]-2-(3-methoxyphenyl)-6-methoxynaphthalene hydrochloride in 30 mL of CH2Cl2 and the solution was cooled to 0° C. under a nitrogen atmosphere. To this solution was added 1.09 mL (2.89g, 11.5 mmol) of BBr3 and the reaction was allowed to proceed for two hours at 0° C. The reaction was quenched by the addition of aqueous NaHCO3 solution (50 mL). The reaction mixture was extracted with CHCl3. The organic layer was washed with brine, dried with Na2SO4, and evaporated to dryness. The residue was suspended in THF and filtered. To the filtrate was added 1 mL of 5N HCl and the solvents were removed by evaporation. This yielded 0.99 g of the title compound as a tan amorphous powder.

reactant | 1-[4-[2-(1-piperidinyl)ethoxy]phenoxy]-2-(3-methoxyphenyl)-6-methoxynaphthalene hydrochloride | 2.9 mmol, 1.5 g | Cl.N1(CCCCC1)CCOC1=CC=C(OC2=C(C=CC3=CC(=CC=C23)OC)C2=CC(=CC=C2)OC)C=C1
reactant | BBr3 | 11.5 mmol, 1.09 mL, 2.89g | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-[2-(1-piperidinyl)ethoxy]phenoxy]-2-(3-hydroxyphenyl)-6-hydroxynaphthalene hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(OC2=C(C=CC3=CC(=CC=C23)O)C2=CC(=CC=C2)O)C=C1 | InChI=1S/C29H29NO4.ClH/c31-23-6-4-5-21(19-23)27-13-7-22-20-24(32)8-14-28(22)29(27)34-26-11-9-25(10-12-26)33-18-17-30-15-2-1-3-16-30;/h4-14,19-20,31-32H,1-3,15-18H2;1H
